US08138187B2
8-Dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile (21 g, 0.1 mmol), dissolved in THF (210 ml), was added to a 1.82 M phenylmagnesium chloride solution in THF (109 ml, 0.198 mol) in the course of 15 min, under argon and while cooling with ice, and the mixture was then stirred at room temperature for 16 h. For working up of the reaction mixture, saturated ammonium chloride solution (150 ml) was added, while cooling with ice, and the mixture was extracted with diethyl ether (3×100 ml). The organic phase was extracted by shaking with water (100 ml) and saturated NaCl solution (100 ml) and the extract was concentrated. A yellow oil (25.2 g) remained. The crude product was dissolved in ethyl methyl ketone (280 ml), and ClSiMe3 (18.8 ml, 0.15 mol) was added, while cooling with ice. After a reaction time of 6 h, it was possible to isolate dimethyl-(8-phenyl-1,4-dioxaspiro[4.5]dec-8-yl)amine hydrochloride in a yield of 35% (10.5 g) as a white solid.

reactant | 8-Dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 0.1 mmol, 21 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | phenylmagnesium chloride | 1.82 M | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
reactant | ClSiMe3 | 0.15 mol, 18.8 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 210 ml | C1CCOC1 | C4H8O
solvent | THF | 0.198 mol, 109 ml | C1CCOC1 | C4H8O
product | dimethyl-(8-phenyl-1,4-dioxaspiro[4.5]dec-8-yl)amine hydrochloride | yield of 35% | Cl.CN(C1(CCC2(OCCO2)CC1)C1=CC=CC=C1)C | InChI=1S/C16H23NO2.ClH/c1-17(2)15(14-6-4-3-5-7-14)8-10-16(11-9-15)18-12-13-19-16;/h3-7H,8-13H2,1-2H3;1H
